US06987114B1
1-(Benzoxazol-2-ylmethyl)-5-ethyl-6-(3,5-dimethyl-benzoyl)-2,4-pyrimidinedione
5-Ethyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione and 2-chloromethyl benzoxazole were reacted by the same way with the example 1 to obtain the titled compound (241 mg, yield: 59.7%).

reactant | 5-Ethyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | C(C)C=1C(NC(NC1C(C1=CC(=CC(=C1)C)C)=O)=O)=O | C15H16N2O3
reactant | 2-chloromethyl benzoxazole | ClCC=1OC2=C(N1)C=CC=C2 | C8H6ClNO
product | 1-(Benzoxazol-2-ylmethyl)-5-ethyl-6-(3,5-dimethyl-benzoyl)-2,4-pyrimidinedione | 241 mg, yield: 59.7% | O1C(=NC2=C1C=CC=C2)CN2C(NC(C(=C2C(C2=CC(=CC(=C2)C)C)=O)CC)=O)=O | C23H21N3O4
